US08486962B2
Stannous chloride dihydrate (10 g, 44.4 mmol) was added to a solution of 4-(4-nitro-phenyl)-thiomorpholine (2 g, 8.9 mmol) in ethyl acetate and stirred at room temperature for 4 hr. Water was added and the reaction mixture was neutralized with triethyl amine. The organic layer was dried over anhydrous sodium sulphate, filtered and concentrated under reduced pressure to yield 4-thiomorpholin-4-yl-phenylamine (1.2 g, 60%) as a solid.

reactant | 4-(4-nitro-phenyl)-thiomorpholine | 8.9 mmol, 2 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCSCC1 | C10H12N2O2S
reactant | Water | O | H2O
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-thiomorpholin-4-yl-phenylamine | 1.2 g, 60% | N1(CCSCC1)C1=CC=C(C=C1)N | C10H14N2S
